US08252820B2
E. 6-Benzyloxy-2,3-difluorophenylamine
A round bottom flask containing N-(6-benzyloxy-2,3-difluorophenyl)-acetamide (1.0 g), potassium hydroxide (1.0 g), water (2 mL) and ethanol (10 mL) are heated at 90° C. for 10 h. The mixture is then concentrated and extracted twice with EtOAc and water. The combined organic layers are dried over MgSO4, filtered and concentrated. The product is used directly in the next step.

reactant | N-(6-benzyloxy-2,3-difluorophenyl)-acetamide | 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C(=C1NC(C)=O)F)F | C15H13F2NO2
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | water | 2 mL | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-Benzyloxy-2,3-difluorophenylamine | C(C1=CC=CC=C1)OC1=CC=C(C(=C1N)F)F | C13H11F2NO
